US07691882B2
4-(5-(2-Amino-5-fluoro-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol
To a trifluoroacetic acid (5 mL) solution of 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-5-fluoro-pyridin-2-ylamine (180 mg, 0.48 mmol) described in Example 173 was added thioanisole (225 μL, 1.92 mmol), which was stirred for 6 hours at room temperature. A saturated sodium hydrogencarbonate aqueous solution was added to this reaction solution at 0° C., which was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:2˜ethyl acetate) to obtain the title compound (134.0 mg, 98%).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-5-fluoro-pyridin-2-ylamine | 0.48 mmol, 180 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=C(C2)F)N)C=C1 | C22H18FN3O2
reactant | thioanisole | 1.92 mmol, 225 μL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 4-(5-(2-Amino-5-fluoro-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 134.0 mg, 98% | NC1=NC=C(C=C1C1=CC(=NO1)CC1=CC=C(C=C1)O)F | C15H12FN3O2
